US06720338B2
1-bromo-4-fluoro-2-methoxybenzene
A mixture of 2-bromo-5-fluorophenol (2 mL, 17.8 mmol)), sodium hydride (0.5 g, 20.8 mmol) and iodomethane (5 mL, 82 mmol) in DMF (20 mL) was heated to 60° C., stirred for 16 hours, diluted with ethyl acetate (100 mL), washed sequentially with 1M HCl, water, and brine, dried (MgSO4), filtered, and concentrated to provide the desired product.

reactant | 2-bromo-5-fluorophenol | 17.8 mmol, 2 mL | BrC1=C(C=C(C=C1)F)O | C6H4BrFO
reactant | sodium hydride | 20.8 mmol, 0.5 g | [H-].[Na+]
reactant | iodomethane | 82 mmol, 5 mL | IC | CH3I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-bromo-4-fluoro-2-methoxybenzene | BrC1=C(C=C(C=C1)F)OC | C7H6BrFO
